US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethoxy}-phenylamino)-piperidine-1-carboxylic Acid Octylamide
4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxy-propyl]amino}ethoxy)anilino]-N-octyl-1-piperidinecarboxamide (0.30 g, 0.377 mmol) was reacted according to Procedure H (eluant: 10:1 chloroform-methanol) to give the title compound (0.115 g, 0.206 mmol).

reactant | 4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxy-propyl]amino}ethoxy)anilino]-N-octyl-1-piperidinecarboxamide | 0.377 mmol, 0.30 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCOC2=CC=C(NC3CCN(CC3)C(=O)NCCCCCCCC)C=C2)O)C=C1 | C47H66N4O5Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethoxy}-phenylamino)-piperidine-1-carboxylic Acid Octylamide | 0.206 mmol, 0.115 g | C(CCCCCCC)NC(=O)N1CCC(CC1)NC1=CC=C(C=C1)OCCNC[C@@H](COC1=CC=C(C=C1)O)O | C31H48N4O5
